US07220862B2
5-Dimethylaminomethylene-3,3-dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester
3,3-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester (5 g, 22 mmol) was dissolved in dimethyl formamide dimethylacetal (25 mL) and heated at reflux for 2 h. The reaction mixture was then heated to 130° C. for 1 h via microwave, and concentrated to give 6.43 g (quant.) as an oil which used without purification. 1H-NMR (CDCl3, 500 MHz) δ 1.07 (s, 6H), 1.45 (s, 9H), 3.06 (s, 6H), 3.37 (m, 2H), 4.57 (m, 2H), 7.41 (bs, 1H).

reactant | 3,3-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 22 mmol, 5 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
solvent | dimethyl formamide dimethylacetal | 25 mL | COC(N(C)C)OC | C5H13NO2
product | 5-Dimethylaminomethylene-3,3-dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C(C1)=CN(C)C)=O)(C)C | C15H26N2O3
